US05155130
The starting material is prepared as follows: Borane-THF complex (1M in THF, 55.4 ml, 55.4 mmol) is cooled to 0° C. To this mixture is added 6-methoxy-3,4-dihydro-2H-1-benzothiopyran-3-carboxylic acid (6.1 g, 25 mmol) in 30 ml of THF dropwise. The cooling bath is then removed and the mixture is stirred overnight. This is quenched by addition of 50% aqueous acetic acid (8 ml), and concentrated in vacuo at 50° C. The residue is purified by flash chromatography (silica gel, 40% EtOAc/hexane) to give 3-hydroxymethyl-6-methoxy-3,4-dihydro-2H-1-benzothiopyran as an oil which crystallizes on standing.

reactant | Borane THF | 55.4 mmol, 1M, 55.4 ml | B.C1CCOC1
reactant | 6-methoxy-3,4-dihydro-2H-1-benzothiopyran-3-carboxylic acid | 25 mmol, 6.1 g | COC=1C=CC2=C(CC(CS2)C(=O)O)C1 | C11H12O3S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-hydroxymethyl-6-methoxy-3,4-dihydro-2H-1-benzothiopyran | OCC1CSC2=C(C1)C=C(C=C2)OC | C11H14O2S
